US08859494B2
Analogously to example 1, cyclobutane-1,1-diyldimethanol, 3-tert-butylphenol and methyl 3-(4-hydroxyphenyl)hex-4-ynoate were used to obtain 3-{4-[1-(3-tert-butylphenoxymethyl)cyclobutylmethoxy]phenyl}hex-4-ynoic acid.

reactant | cyclobutane-1,1-diyldimethanol | C1(CCC1)(CO)CO | C6H12O2
reactant | 3-tert-butylphenol | C(C)(C)(C)C=1C=C(C=CC1)O | C10H14O
reactant | methyl 3-(4-hydroxyphenyl)hex-4-ynoate | OC1=CC=C(C=C1)C(CC(=O)OC)C#CC | C13H14O3
product | 3-{4-[1-(3-tert-butylphenoxymethyl)cyclobutylmethoxy]phenyl}hex-4-ynoic acid | C(C)(C)(C)C=1C=C(OCC2(CCC2)COC2=CC=C(C=C2)C(CC(=O)O)C#CC)C=CC1 | C28H34O4
